US05182263
A mixture of 2-(4-bromophenyl)acetic acid (50 g, 0.23 mol), benzyl alcohol (26 mL, 0.25 mol) and p-toluenesulfonic acid (0.3 g) in 200 ml toluene were heated at reflux with the azeotropic removal of water (15 h). The yellow solution was washed with water (250 mL), saturated aqueous sodium bicarbonate (250 mL) and then dried (MgSO4). Concentration provided a light yellow solid that was recrystallized from cold hexanes to give benzyl 2-(4-bromophenyl)acetate (48.5 g, 0.16 mol) in 69% yield, mp. 47.5°-48° C.

reactant | 2-(4-bromophenyl)acetic acid | 0.23 mol, 50 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | benzyl alcohol | 0.25 mol, 26 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | benzyl 2-(4-bromophenyl)acetate | 0.16 mol, 48.5 g, 69% yield | BrC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C15H13BrO2
